US07138533B2
8-[5-[(2-Phenylethyl)amino]pentanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride
A 4N hydrogen chloride-ethyl acetate solution was added to a solution of tert-butyl 5-oxo-5-(4-oxo-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-8-yl)pentyl(2-phenylethyl)carbamate (3.00 g) obtained in Reference Example 19 in ethanol (5 ml), and the mixture was stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the resulting residue was crystallized from ethanol-ethyl acetate to give the title compound as colorless crystals (1.98 g) having a melting point of 166 to 168° C.

reactant | hydrogen chloride-ethyl acetate | 4N | C(C)(=O)OCC.Cl
reactant | tert-butyl 5-oxo-5-(4-oxo-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-8-yl)pentyl(2-phenylethyl)carbamate | 3.00 g | O=C(CCCCN(C(OC(C)(C)C)=O)CCC1=CC=CC=C1)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C29H36N2O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 8-[5-[(2-Phenylethyl)amino]pentanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride | 1.98 g | Cl.C1(=CC=CC=C1)CCNCCCCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | InChI=1S/C24H28N2O2.ClH/c27-22(8-4-5-13-25-14-11-18-6-2-1-3-7-18)21-16-19-9-10-23(28)26-15-12-20(17-21)24(19)26;/h1-3,6-7,16-17,25H,4-5,8-15H2;1H
